US05631373
N-(4-Fluoro-5-methyl-2-nitrophenyl)glycine sodium salt.
To a stirred solution of 2,5-difluoro-4-nitrotoluene (0.550 g. 3.18 mmol) in DMF (5.0 mL) was added dropwise a solution of sodium glycinate (0.308 g, 3.18 mmol, Aldrich, used as received) in water (1.0 mL). The resulting suspension was stirred at 28° C. overnight. The solid was filtered and dried under vacuum to give 0.168 g (23%) of crude product. It was purified as follows. 0.150 g material was boiled in ethyl acetate (5.0 mL) and filtered while hot to give 0.134 g (18%) of the pure (1H NMR) title compound as a yellow powder. 1H NMR (DMSO-d6): 2.213 (s, 3H), 3.428 (d, 2H, J=3.9 Hz), 6.765 (d, 1H, J=6.9 Hz), 7.700 (d, 1H, J=10.5 Hz), 8.728 (s, 1H).

reactant | 2,5-difluoro-4-nitrotoluene | 3.18 mmol, 0.550 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5F2NO2
reactant | sodium glycinate | 3.18 mmol, 0.308 g | NCC(=O)[O-].[Na+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | 1.0 mL | O | H2O
product | N-(4-Fluoro-5-methyl-2-nitrophenyl)glycine sodium salt | [Na+].FC1=CC(=C(C=C1C)NCC(=O)[O-])[N+](=O)[O-] | InChI=1S/C9H9FN2O4.Na/c1-5-2-7(11-4-9(13)14)8(12(15)16)3-6(5)10;/h2-3,11H,4H2,1H3,(H,13,14);/q;+1/p-1
